US06951867B2
Step 1, benzyl [1-(3,3-dimethyl-2-oxobutyl)piperidin-4-yl]methylcarbamate
To a solution of benzyl piperidin-4-ylmethylcarbamate (Tetrahedron Lett. 1990, 31, 6903, 6.9 g, 27.8 mmol) in N,N-dimethylformamide (60 mL) were added triethylamine (9.7 mL, 69.5 mmol) and 1-bromo-3,3-dimethylbutan-2-one (7.9 g, 41.7 mmol) at room temperature. The mixture was stirred at room temperature for 2 h and quenched with water (60 mL) followed by extraction with ethyl acetate-toluene mixture (3×30 mL). Concentration and purification by column chromatography on silica gel eluting with ethyl acetate/hexane (2:1) gave the title compound (9.6 g, 100%) as a pale yellow solid.

reactant | benzyl piperidin-4-ylmethylcarbamate | 27.8 mmol, 6.9 g | N1CCC(CC1)CNC(OCC1=CC=CC=C1)=O | C14H20N2O2
reactant | triethylamine | 69.5 mmol, 9.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3,3-dimethylbutan-2-one | 41.7 mmol, 7.9 g | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | benzyl [1-(3,3-dimethyl-2-oxobutyl)piperidin-4-yl]methylcarbamate | 9.6 g, 100% | CC(C(CN1CCC(CC1)CNC(OCC1=CC=CC=C1)=O)=O)(C)C | C20H30N2O3
